US06919338B2
2-amino-4-(1-methylpiperidin-4-ylmethoxy)-5-methoxybenzonitrile
2-nitro-4-(1-methylpiperidin-4-ylmethoxy)-5-methoxybenzonitrile (1.1 g, 3.6 mmol) in THF (20 ml) in presence of benzyltrimethylammonium chloride (334 mg, 1.8 mmol) was treated by a slow addition of Na2S2O4 (3.1 g, 18 mmol) in water (20 ml). After 0.5 h, HCl (6N, 20 ml) was added to the mixture, which was stirred at 60° C. for 5 h. The mixture was cooled to room temperature, extracted with ethylacetate. The aqueous phase was made basic with Na2 CO3 (solid), and extracted with ethylacetate. The organic phase was dried over MgSO4, concentrated, to give a yellow solid (748 mg, 75%) of title compound.

reactant | 2-nitro-4-(1-methylpiperidin-4-ylmethoxy)-5-methoxybenzonitrile | 3.6 mmol, 1.1 g | [N+](=O)([O-])C1=C(C#N)C=C(C(=C1)OCC1CCN(CC1)C)OC | C15H19N3O4
reactant | Na2S2O4 | 18 mmol, 3.1 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
reactant | HCl | 6N, 20 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
catalyst | benzyltrimethylammonium chloride | 1.8 mmol, 334 mg | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | water | 20 ml | O | H2O
product | 2-amino-4-(1-methylpiperidin-4-ylmethoxy)-5-methoxybenzonitrile | 748 mg, 75% | NC1=C(C#N)C=C(C(=C1)OCC1CCN(CC1)C)OC | C15H21N3O2
